US07084170B2
To methyl 2-chloro-4-methylbenzoate (1.00 g, 5.42 mmol) in tetrahydrofuran (10 mL) methyl alcohol (5 mL) and water (2.5 mL) is added 2N lithium hydroxide (8.12 mL, 16.2 mmol). The reaction mixture is heated at 50° C. for 2.5 hr, cooled to room temperature, and then quenched with 5N hydrochloric acid (3.24 mL). The mixture is concentrated to remove the tetrahydrofuran and methyl alcohol. A white precipitate is formed and is filtered. After drying, 0.922 g (100%) of 2-chloro-4-methylbenzoic acid is isolated. ES(−)MS m/z 169, (M−H)− consistent with 1 Cl.

reactant | methyl 2-chloro-4-methylbenzoate | 5.42 mmol, 1.00 g | ClC1=C(C(=O)OC)C=CC(=C1)C | C9H9ClO2
reactant | lithium hydroxide | 16.2 mmol, 2N, 8.12 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | 2-chloro-4-methylbenzoic acid | 0.922 g, 100% | ClC1=C(C(=O)O)C=CC(=C1)C | C8H7ClO2
